US08859535B2
9-Thia-bicyclo[3.3.1]nonane-3-carbaldehyde
To a solution of 3-Methoxymethylene-9-thia-bicyclo[3.3.1]nonane (2.50 g, 13.56 mmol) in THF (35 ml) were added water (7 ml) and a 4M solution of HCl (6.78 ml, 27.10 mmol) and the reaction mixture was stirred for 16 hrs at 55° C. The reaction mixture was quenched with a saturated aqueous solution of NaHCO3, ethyl acetate was added and extracted with ethyl acetate. The organic phases were combined, washed with brine, dried using Na2SO4, filtered and concentrated in vacuo. The remaining oil was dissolved in THF/MeOH 1/1 (60 ml), DBU (0.146 g, 0.14 ml, 0.957 mmol) was added and the solution was stirred at RT for 1 hr. Ethyl acetate (150 ml), the reaction mixture was neutralized using a solution of 0.5 M HCl and extracted with ethyl acetate. The combined organic phases were washed with brine, dried using Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel column chromatography (eluting with a gradient of hexanes:ethyl acetate 100:0 to 75:25) yielding the title intermediate (2.21 g, 12.33 mmol, 64%) as a colourless oil.

reactant | 3-Methoxymethylene-9-thia-bicyclo[3.3.1]nonane | 13.56 mmol, 2.50 g | COC=C1CC2CCCC(C1)S2 | C10H16OS
reactant | water | 7 ml | O | H2O
reactant | HCl | 27.10 mmol, 6.78 ml | Cl | ClH
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | HCl | 0.5 M | Cl | ClH
solvent | THF | 35 ml | C1CCOC1 | C4H8O
catalyst | DBU | 0.957 mmol, 0.14 ml, 0.146 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 9-Thia-bicyclo[3.3.1]nonane-3-carbaldehyde | 12.33 mmol, 2.21 g, 64% | C12CC(CC(CCC1)S2)C=O | C9H14OS
